US03988471
Example 10 -- Preparation of α-methylbenzyl 3,5-di-t-butyl-4-hydroxydithiobenzoate
A solution of 14.1 g (0.05 mol) 3,5-di-t-butyl-4-hydroxydithiobenzoic acid and 10.4 g (0.1 mol) styrene in 100 ml toluene was heated at reflux for about 1 hour. The reaction mixture was filtered through silica gel and evaporated under reduced pressure to give the product, m.p. 70°-72° C. Elemental analysis of the product is tabulated in Table I.

reactant | 3,5-di-t-butyl-4-hydroxydithiobenzoic acid | 0.05 mol, 14.1 g | C(C)(C)(C)C=1C=C(C(=S)S)C=C(C1O)C(C)(C)C | C15H22OS2
reactant | styrene | 0.1 mol, 10.4 g | C=CC1=CC=CC=C1 | C8H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | α-methylbenzyl 3,5-di-t-butyl-4-hydroxydithiobenzoate | C(C)(C)(C)C=1C=C(C(=S)SC(C2=CC=CC=C2)C)C=C(C1O)C(C)(C)C | C23H30OS2
